US07989444B2
Preparation 45: 1,1-dimethylethyl 7-(ethanethioylamino)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
1,1-dimethylethyl-7-(acetylamino)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (818 mg) and Lawesson's reagent (1.1 g) were combined in toluene (10 ml) and refluxed for 1.5 h. After cooling the reaction was worked up with ethyl acetate/NaHCO3 (sat. sol.). The combined organic layers were concentrated and the residue was purified by flash chromatography over silica gel, eluting with 40% ethyl acetate in hexane, affording the title compound (411 mg).

reactant | 1,1-dimethylethyl-7-(acetylamino)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 818 mg | CC(C)(C)C1CN(CCC2=C1C=CC(=C2)NC(C)=O)C(=O)[O-]
reactant | Lawesson's reagent | 1.1 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl acetate NaHCO3 | C(C)(=O)OCC.C(=O)(O)[O-].[Na+]
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-dimethylethyl 7-(ethanethioylamino)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 411 mg | C(C)(=S)NC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C17H24N2O2S
